US08685974B2
To a solution of 4-bromo-3-(5-chloro-2-thienyl)-1-isobutyl-1H-pyrazole (1 eq, 0.015 mol), triethylamine (8.15 eq, 0.128 mol) and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)dichloride (767 mg) in dry acetonitrile (60 mL) was added pinacol diborane (3 eq, 0.046 mol) drop wise at room temperature. The resulting mixture was heated at 80° C. for 12 h. After completion reaction monited by TLC, the reaction mixture was cooled to room temperature, poured into ice cold water and extracted with diethyl ether. The combined organic layers were washed with water, brine, dried over anhydrous Na2SO4, filtered and evaporated. The residue was purified by column chromatography to afford 3 g of 3-(5-chloro-2-thienyl)-1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (82% yield).

reactant | 4-bromo-3-(5-chloro-2-thienyl)-1-isobutyl-1H-pyrazole | 0.015 mol, 1 eq | BrC=1C(=NN(C1)CC(C)C)C=1SC(=CC1)Cl | C11H12BrClN2S
reactant | triethylamine | 0.128 mol, 8.15 eq | C(C)N(CC)CC | C6H15N
reactant | pinacol diborane | 0.046 mol, 3 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)dichloride | 767 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(5-chloro-2-thienyl)-1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 3 g, 82% yield | ClC1=CC=C(S1)C1=NN(C=C1B1OC(C(O1)(C)C)(C)C)CC(C)C | C17H24BClN2O2S
